US09120749B2
tert-butyl (trans-4-(2-(dimethylamino)ethyl)cyclohexyl)carbamate
To a suspension of tert-butyl (trans-4-(2-aminoethyl)cyclohexyl)carbamate (970 mg, 4 mmol) and paraformaldehyde (360 mg, 12 mmol) in methanol (40 mL) was added sodium cyanoborohydride (754 mg, 12 mmol) and acetic acid (1 drop). The resultant suspension was stirred at room temperature for 16 h, diluted with a saturated NaHCO3 solution and extracted with a mixture of CHCl3/isopropanol (3:1). The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded the desired product (336 mg, 31%) as a white solid. ESI MS m/z 271 [C15H30N2O2+H]+

reactant | tert-butyl (trans-4-(2-aminoethyl)cyclohexyl)carbamate | 4 mmol, 970 mg | NCC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C13H26N2O2
reactant | paraformaldehyde | 12 mmol, 360 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 12 mmol, 754 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl (trans-4-(2-(dimethylamino)ethyl)cyclohexyl)carbamate | 336 mg, 31% | CN(CC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C | C15H30N2O2
